US05021431
N-[3-(Imidazol-4-yl)propyl]-N'-[3-[(pyrid-2-yl)thio]propyl]-guanidine
0.84 g (2 mmol) of N-benzoyl-N'[3-(imidazol-4-yl) propyl]-N"-[3-[(pyrid-2-yl)thio]propyl]-guanidine are heated under reflux in 45 ml of 20% hydrochloric acid for 6 hours. The reaction product is worked up by a method analogous to that of Example 109. It initially precipitates as a dry, hygroscopic foam but this foam gradually crystallises when triturated with acetone and a few drops of ethanol.

reactant | N-benzoyl-N'[3-(imidazol-4-yl) propyl]-N"-[3-[(pyrid-2-yl)thio]propyl]-guanidine | 2 mmol, 0.84 g | C(C1=CC=CC=C1)(=O)NC(=NCCCSC1=NC=CC=C1)NCCCC=1N=CNC1 | C22H26N6OS
solvent | hydrochloric acid | 45 ml | Cl | ClH
product | N-[3-(Imidazol-4-yl)propyl]-N'-[3-[(pyrid-2-yl)thio]propyl]-guanidine | N1C=NC(=C1)CCCNC(=N)NCCCSC1=NC=CC=C1 | C15H22N6S
